US09447090B2
A mixture of 120 mg of N-[(1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-phenylethyl]-8-hydroxy-2-methylimidazo[1,2-a]pyridine-3-carboxamide, 60 μl of cyclopentylmethanol, 156 μl of (tributylphosphoranylidene)acetonitrile, and 2.4 ml of toluene was stirred at 110° C. for 16 hours, followed by purification using silica gel chromatography, to obtain 100 mg of N-[(1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-phenylethyl]-8-(cyclopentylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | N-[(1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-phenylethyl]-8-hydroxy-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 120 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](C1=CC=CC=C1)NC(=O)C1=C(N=C2N1C=CC=C2O)C | C23H31N3O3Si
reactant | cyclopentylmethanol | 60 μl | C1(CCCC1)CO | C6H12O
reactant | (tributylphosphoranylidene)acetonitrile | 156 μl | C(CCC)P(CCCC)(CCCC)=CC#N | C14H28NP
solvent | toluene | 2.4 ml | C1(=CC=CC=C1)C | C7H8
product | N-[(1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-phenylethyl]-8-(cyclopentylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 100 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](C1=CC=CC=C1)NC(=O)C1=C(N=C2N1C=CC=C2OCC2CCCC2)C | C29H41N3O3Si
